US08471005B2
[7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(6-morpholin-4-yl-pyridin-3-yl)-amine
Into a 30 mL vial, Palladium Acetate (12 mg, 0.000053 mol) and Triphenylphosphine (40 mg, 0.0002 mol) were added and purged under an atmosphere of Nitrogen for 10 minutes. 1,4-Dioxane (2.0 mL, 0.026 mol) was added and stirred for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(6-morpholin-4-yl-pyridin-3-yl)-amine (0.085 g, 0.00023 mol), 3-chlorophenyl boronic acid (0.0712 g, 0.000455 mol), N,N-Dimethylformamide (2.0 mL, 0.026 mol) and 1.50 M of Sodium carbonate in Water (0.842 mL, 0.00126 mol) were added and heated at 85° C. for 8 hours. The reaction was partitioned with DCM. The solid was filtered and washed with DCM. The organic solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 10% methanol). The collected fractions afforded [7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(6-morpholin-4-yl-pyridin-3-yl)-amine as a yellow solid. MP 221-222° C. LCMS (E/I+) 407.19 (M+H). NMR 1H (DSMO-d6)-9.29 (s, 1H), 8.98 (s, 1H), 8.41 (d, 1H, J=2.48 Hz), 8.37 (s, 1H), 8.03 (d, 1H, J=7.52 Hz), 7.99 (dd, 2H, JJ=2.68, 6.41 Hz), 7.50 (t, 1H, J=7.88 Hz), 7.40 (d, 1H, J=8.00 Hz), 7.26 (d, 1H, J=4.84 Hz), 6.94 (d, 1H, J=4.74 Hz), 6.86 (d, 1H, J=9.12 Hz), 3.71 (t, 4H, J=4.64 Hz), 3.37 (t, 4H, J=4.92 Hz).

reactant | Triphenylphosphine | 0.0002 mol, 40 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-Dioxane | 0.026 mol, 2.0 mL | O1CCOCC1 | C4H8O2
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(6-morpholin-4-yl-pyridin-3-yl)-amine | 0.00023 mol, 0.085 g | BrC1=CC=C2C=NC(=NN21)NC=2C=NC(=CC2)N2CCOCC2 | C15H15BrN6O
reactant | 3-chlorophenyl boronic acid | 0.000455 mol, 0.0712 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | N,N-Dimethylformamide | 0.026 mol, 2.0 mL | CN(C=O)C | C3H7NO
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 0.00126 mol, 0.842 mL | O | H2O
catalyst | Palladium Acetate | 0.000053 mol, 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [7-(3-Chloro-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(6-morpholin-4-yl-pyridin-3-yl)-amine | ClC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC=2C=NC(=CC2)N2CCOCC2 | C21H19ClN6O
